US07595312B2
7c (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-tert.-butoxycarbonylamino-propionic acid
A solution of 3.71 g (35.0 mmol) of NaHCO3 in 100 mL water was added to a solution of 6.5 g (23.0 mmol) of (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionic acid in 140 mL of THF. 15.28 g (70.0 mmol) of Boc-anhydride was added and the mixture was stirred for 3 h at RT. THF was evaporated off i. vac., the aqueous phase was washed with EtOAc and acidified with 10% citric acid solution. The aqueous phase was exhaustively extracted with EtOAc, the combined org. extracts were dried over Na2SO4 and evaporated down i. vac. The crude product was used in the next reaction step without any further purification.

reactant | NaHCO3 | 35.0 mmol, 3.71 g | C(=O)(O)[O-].[Na+]
reactant | (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionic acid | 23.0 mmol, 6.5 g | N[C@@H](C(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C10H10ClF3N2O2
solvent | water | 100 mL | O | H2O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-tert.-butoxycarbonylamino-propionic acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)O)NC(=O)OC(C)(C)C)Cl | C15H18ClF3N2O4
